US04263437
A mixture of 20 mg of (5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]oxepin-8-yl)-acetamide, 0.5 ml of hydrazine hydrate and 1.5 ml of ethanol was refluxed for 1 hour. The solvent and excess hydrazine hydrate were removed by distillation to obtain a residue, to which was added ethanol. Thereafter, the solvent was distilled off to obtain a yellow oil, to which were added 0.1 g of sodium hydroxide and 3 ml of dry diethylene glycol. The mixture was stirred at 100° C. for 20 minutes and then at 120° C. for 2.5 hours. After cooling, to this was added water, and the mixture was washed with ethyl acetate. The aqueous layer was acidified with acetic acid and extracted with ethyl acetate. The extract was washed with water and a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain a solid, which was chromatographed over 1 g of silica gel and eluted with chloroform, thereby yielding 3.5 mg (yield: 18%) of (5,6-dihydro benzo[b]pyrido[3,2-f]oxepin-8-yl)-acetic acid as white needle crystals having a melting point of 203°-204° C.

reactant | (5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]oxepin-8-yl)-acetamide | 20 mg | O=C1C2=C(OC3=C(C1)C=CC=N3)C=CC(=C2)CC(=O)N | C15H12N2O3
reactant | hydrazine hydrate | 0.5 ml | O.NN
reactant | ethanol | 1.5 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 0.1 g | [OH-].[Na+]
solvent | water | O | H2O
solvent | diethylene glycol | 3 ml | C(COCCO)O | C4H10O3
product | (5,6-dihydro benzo[b]pyrido[3,2-f]oxepin-8-yl)-acetic acid | 3.5 mg, yield: 18% | N1=CC=CC=2CCC3=C(OC21)C=CC(=C3)CC(=O)O | C15H13NO3
